US03971819
A. 3-nitro-4-phenylthio-5-sulphamyl-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (28 g), thiophenol (10.25 ml), and 1N sodium bicarbonate (300 ml) was refluxed for 3 hours. After cooling, the precipitated sodium salt of 3-nitro-4-phenylthio-5-sulphamyl-benzoic acid was filtered off. The sodium salt was dissolved in hot water (200 ml), and 3-nitro-4-phenylthio-5-sulphamyl-benzoic acid was precipitated by the addition of 4N hydrochloric acid until the pH was 1. After isolation and recrystallization from aqueous ethanol, the acid was obtained with a melting point of 245°-247°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 28 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | thiophenol | 10.25 ml | C1(=CC=CC=C1)S | C6H6S
solvent | sodium bicarbonate | 1N, 300 ml | C([O-])(O)=O.[Na+]
product | 3-nitro-4-phenylthio-5-sulphamyl-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C13H10N2O6S2
